US07807709B2
C. (3R*,4R*)-3-({[2-(3-Acetylamino-phenyl)-acetyl]-cyclopropyl-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
Triethylamine (67 μL, 0.48 mmol), DMAP (0.4 mg, 0.003 mmol) and acetic anhydride (46 μL, 0.48 mmol) are added to a solution of (3R*,4R*)-3-({[2-(3-amino-phenyl)-acetyl]-cyclopropyl-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (215 mg, 0.32 mmol) in THF (20 mL). The reaction mixture is stirred at RT for 16 h before water is added for workup. Extraction with ethyl acetate, drying of the combined extracts (Na2SO4), filtration and evaporation of the solvent affords the crude product which is purified by flash chromatography on silica gel (eluent: CH2Cl2 to CH2Cl2/MeOH 9:1) to give the title compound. MS (LC-MS): 709.1 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 6.04 min.

reactant | Triethylamine | 0.48 mmol, 67 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.48 mmol, 46 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | (3R*,4R*)-3-({[2-(3-amino-phenyl)-acetyl]-cyclopropyl-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.32 mmol, 215 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C1CC1)C(CC1=CC(=CC=C1)N)=O | C37H54N4O7
reactant | water | O | H2O
catalyst | DMAP | 0.003 mmol, 0.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (3R*,4R*)-3-({[2-(3-Acetylamino-phenyl)-acetyl]-cyclopropyl-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C1CC1)C(CC1=CC(=CC=C1)NC(C)=O)=O | C39H56N4O8
